US05852023
Preparation of the precursor ethyl (4-hydroxy-6-methylpyrimidin-5-yl)acetate
216.24 g (1.0 mol) of ethyl acetylsuccinate and 104.11 g (1.0 mol) of formamidine acetate were placed in 500 ml of ethanol, and 360.13 g (2.0 mol) of 30% methanolic sodium methylate solution were added dropwise at 0° C. The mixture was stirred at room temperature for 6 hours and concentrated and the residue was taken up in toluene/water. The aqueous phase was brought to a pH of 3-4 with conc. hydrochloric acid and extracted by stirring a number of times with dichloromethane. Drying and concentration of the combined dichloromethane phases left a resinous solid. This solid was stirred with a mixture of diisopropyl ether and ethyl acetate (2:1) which was then filtered with suction to leave 55.6 g (28.3% of theory) of colorless crystals of m.p. 148° to 149° C.

reactant | ethyl acetylsuccinate | 1.0 mol, 216.24 g | C(C)(=O)C(C(=O)OCC)CC(=O)[O-]
reactant | formamidine acetate | 1.0 mol, 104.11 g | C(C)(=O)O.C(=N)N
reactant | sodium methylate | 2.0 mol, 360.13 g | C[O-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl (4-hydroxy-6-methylpyrimidin-5-yl)acetate | OC1=NC=NC(=C1CC(=O)OCC)C | C9H12N2O3
